US05439917
2,3-Dimethyl-7-(o-methoxyphenacyl)pyrrolo[2,3-b]pyridine.
The title compound was prepared on a 1 mmol scale from 2,3-dimethylpyrrolo[2,3-b]pyridine and o-methoxyphenacyl bromide in the same manner as described in example 27 yielding 244 mg (71%) pure hydrobromide as a light yellow solid.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | o-methoxyphenacyl bromide | COC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO2
reactant | hydrobromide | 244 mg | Br | BrH
product | 2,3-Dimethyl-7-(o-methoxyphenacyl)pyrrolo[2,3-b]pyridine | CC1=C(C=2C(N(C=CC2)CC(=O)C2=C(C=CC=C2)OC)=N1)C | C18H18N2O2
